US09303040B2
To a solution of formamidine HCl salt (3.70 g, 46.0 mmol) in ethanol (200 mL) was added NaOEt in ethanol (21% wt, 17.2 mL, 46.0 mmol). The mixture was stirred at room temperature for 1 hour. The ethyl 4-oxotetrahydrothiophene-3-carboxylate (8.0 g, 46.0 mmol) was added. The mixture was stirred at room temperature for 4 hours and then refluxed overnight. After cooling, the solvent was removed and the residue was washed with a small amount of water and CH2Cl2 to afford 5,7-dihydrothieno[3,4-d]pyrimidin-4-ol as light brown solid (2.5 g, 35%). 1H NMR (d6-DMSO, 400 MHz) δ 12.59 (s, 1H), 8.13 (s, 1H), 4.12 (s, 2H), 3.96 (s, 2H). MS (APCI+) [M+H]+ 155.

reactant | formamidine HCl salt | 46.0 mmol, 3.70 g | Cl.C(=N)N
reactant | NaOEt | CC[O-].[Na+]
reactant | ethyl 4-oxotetrahydrothiophene-3-carboxylate | 46.0 mmol, 8.0 g | O=C1C(CSC1)C(=O)OCC | C7H10O3S
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5,7-dihydrothieno[3,4-d]pyrimidin-4-ol | 2.5 g, 35% | N1=CN=C(C2=C1CSC2)O | C6H6N2OS
